US08293735B2
1-[2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]non-7-yl]ethanone
Prepared according to the method used in the preparation of 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using 1-(2,7-diaza-spiro[3.5]non-7-yl)-ethanone in place of 7-methyl-2,7-diaza-spiro[3.5]nonane. The title compound was obtained as a colourless solid (47 mg, 61%).

reactant | 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
reactant | 1-(2,7-diaza-spiro[3.5]non-7-yl)-ethanone | C1NCC12CCN(CC2)C(C)=O | C9H16N2O
product | 1-[2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]non-7-yl]ethanone | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C(C)=O)N1CCOCC1 | C20H26ClN5O2S
